US04061759
To a well stirred ice-cooled mixture of 0.1 mole of triphenylphosphine and 0.1 mole of potassium t-butoxide in 250 ml. of heptane is added over thirty minutes a mixture of 0.1 mole of chloroform in 200 ml. of haptane. The resulting mixture is concentrated in vacuo at 15°-20° to a volume of about 100 ml. and a solution of 0.1 mole of 2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine-5-carboxaldehyde in 250 ml. of heptane is added. The reaction mixture was heated at 40°-50° for 5 hours, then cooled, filtered, and concentrated in vacuo to give crude product. Chromatography on silica gel and elution with ether-petroleum ether (10-50%) gives pure 5-(2,2-dichlorovinyl)-2,2,8-trimethyl-4H-1,3-dioxino-[4,5-c]pyridine.

reactant | triphenylphosphine | 0.1 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium t-butoxide | 0.1 mole | CC(C)([O-])C.[K+]
reactant | chloroform | 0.1 mole | C(Cl)(Cl)Cl | CHCl3
reactant | 2,2,8-trimethyl-4H-1,3-dioxino[4,5-c]pyridine-5-carboxaldehyde | 0.1 mole | CC1(OCC2=C(C(=NC=C2C=O)C)O1)C | C11H13NO3
solvent | heptane | CCCCCCC | C7H16
product | 5-(2,2-dichlorovinyl)-2,2,8-trimethyl-4H-1,3-dioxino-[4,5-c]pyridine | ClC(=CC1=C2C(=C(N=C1)C)OC(OC2)(C)C)Cl | C12H13Cl2NO2
